US05292767
trans-4-carboxy-2-mercaptomethyl-tetrahydrothiophene (compound No. 7-1): Another synthetic method
To a stirred solution of trans-4-ethoxycarbonyl-2-mercaptomethyltetrahydrothiophene (compound No. 15-1, 420 mg) in THF (28 ml), 1N lithium hydroxide solution (4.1 ml) was added and the mixture was stirred for 1.5 hours at room temperature. Water was added to the mixture and washed with ethyl acetate. The aqueous layer was acidified with dilute hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water and saturated sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated in vacuo. The oily residue was purified by a silica gel column chromatography to give 254 mg (70%) of the titled compound (compound No. 7-1). The physical data was identified with the product obtained in Example 7.

reactant | trans-4-ethoxycarbonyl-2-mercaptomethyltetrahydrothiophene | C(C)OC(=O)[C@H]1C[C@@H](SC1)CS | C8H14O2S2
reactant | lithium hydroxide | 1N, 4.1 ml | [OH-].[Li+]
reactant | Water | O | H2O
solvent | THF | 28 ml | C1CCOC1 | C4H8O
product | trans-4-carboxy-2-mercaptomethyl-tetrahydrothiophene | 254 mg, 70% | C(=O)(O)[C@H]1C[C@@H](SC1)CS | C6H10O2S2
